US06833387B1
Ethyl 3-formylindole-2-carboxylate
A mixture of N-methylformanilide (2.25 ml) and phosphoryl chloride (1.70 ml) was stirred at ambient temperature for 15 minutes. 1,2-dichloroethane (30 ml) was then added, followed by ethyl indole-2-carboxylate (3 g) and the reaction was heated at reflux for 90 minutes. The reaction mixture was then poured into a mixture of ice/water (200 ml) and sodium acetate (10 g) and extracted with ethyl acetate (2×200 ml). Combined organic phases were evaporated and the crude residue purified by column chromatography using dichloromethane as eluent to give the product as a white solid (2.27 g, 66%); NMR d (CD3SOCD3) 1.40 (t, 3H), 4.42 (q, 2H), 7.25 (m, 1H), 7.40 (m, 1H), 7.55 (m, 1H), 8.20 (m, 1H), 12.77 (s, 1H); M/z (+) 218.3 (MH+).

reactant | N-methylformanilide | 2.25 ml | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphoryl chloride | 1.70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl indole-2-carboxylate | 3 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | sodium acetate | 10 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | Ethyl 3-formylindole-2-carboxylate | 2.27 g, 66% | C(=O)C1=C(NC2=CC=CC=C12)C(=O)OCC | C12H11NO3
